US07655701B2
Cyclohexylidene-m-tolyl-acetonitrile
Sodium methylate (5.40 g, 0.10 mol) is dissolved in ethanol (70 ml) and 3-methyl benzylcyanide (1310 g, 0.10 mol) is added over 2 min. Cyclohexanone (9.80 g, 0.10 mol) is added to the white suspension. The resulting mixture is heated to 85° C. (bath) for 4.5 h. Under icecooling, formic acid (5.0 ml) is added dropwise, upon which the mixture turns colourless. Standard aqueous workup as described in example 1, followed by a short path distillation at 0.05 mbar/157-165° C. yields 12.2 g of product (58% yield), which is further purified by a fine distillation at 0.05 mbar/183° C. to yield 3.95 g (19%) of product as a colourless oil.

reactant | Sodium methylate | 0.10 mol, 5.40 g | C[O-].[Na+]
reactant | 3-methyl benzylcyanide | 0.10 mol, 1310 g | CC=1C=C(CC#N)C=CC1 | C9H9N
reactant | Cyclohexanone | 0.10 mol, 9.80 g | C1(CCCCC1)=O | C6H10O
reactant | formic acid | 5.0 ml | C(=O)O | CH2O2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | Cyclohexylidene-m-tolyl-acetonitrile | 12.2 g, 58% yield | C1(CCCCC1)=C(C#N)C=1C=C(C=CC1)C | C15H17N
